US06448397B1
To potassium carbonate (72 g, 521 mmol) in water (360 mL) and CH2Cl2 (400 mL) is added 2-aminophenol (10.05 g, 92.1 mmol) and tetra-n-butyl ammonium hydrogensulfate (0.156 g, 0.46 mmol). With vigorous stirring a solution of 2-bromoacetophenone (18.33 g, 92.1 mmol) in CH2C2 (150 mL) is added dropwise over a period of 45 min. The mixture is allowed to stir overnight. The layers are separated and the organic layer is washed 3 times with water (300 mL), dried over magnesium sulfate and concentrated to dryness. The resulting solid is recrystallized from absolute ethanol (50 mL) to yield 11.78 g (61%) of 3-phenyl-2H-1,4-benzoxazine; mp 108-111° C.

reactant | potassium carbonate | 521 mmol, 72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-aminophenol | 92.1 mmol, 10.05 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2-bromoacetophenone | 92.1 mmol, 18.33 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | water | 360 mL | O | H2O
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butyl ammonium hydrogensulfate | 0.46 mmol, 0.156 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-phenyl-2H-1,4-benzoxazine | 11.78 g, 61% | C1(=CC=CC=C1)C=1COC2=C(N1)C=CC=C2 | C14H11NO
